US05457204
A2) Preparation of 1,2,2,6,6-pentamethyl-4-(2,3-epoxypropoxy)-piperidine
300 g of sodium hydroxide (7.5 mol) are dissolved in 300 ml of water under an argon atmosphere in a 2.5 l sulfonation flask with a mechanical stirrer, condenser and 500 ml dropping funnel. 750 ml of toluene, 48.4 g (0.15 mol) of tetrabutylammonium bromide and 257 g (1.5 mol) of 4-hydroxy-1,2,2,6,6-pentamethylpiperidine are added. 347 g of epichlorohydrin (3.75 mol) are added dropwise at 60° C. in the course of 1.5 hours and the temperature is then kept at 60° C. for a further 4 hours, while stirring. The reaction solution is poured onto 3 l of ice-water and the organic phase is separated off, dried with sodium sulfate and evaporated. The residue is distilled over a Vigreux column under 0.05 mmHg and the fraction of boiling point 71°-72° C. is collected.

reactant | sodium hydroxide | 7.5 mol, 300 g | [OH-].[Na+]
reactant | toluene | 750 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4-hydroxy-1,2,2,6,6-pentamethylpiperidine | 1.5 mol, 257 g | OC1CC(N(C(C1)(C)C)C)(C)C | C10H21NO
reactant | epichlorohydrin | 3.75 mol, 347 g | C(Cl)C1CO1 | C3H5ClO
solvent | water | 300 ml | O | H2O
catalyst | tetrabutylammonium bromide | 0.15 mol, 48.4 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1,2,2,6,6-pentamethyl-4-(2,3-epoxypropoxy)-piperidine | CN1C(CC(CC1(C)C)OCC1CO1)(C)C | C13H25NO2
